US09382188B2
O) 3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)benzaldehyde
To a solution of (3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)methanol (126 mg) in DMSO (1.0 mL) was added a Dess-Martin reagent (188 mg) at room temperature, and the mixture was stirred for 20 min. To the reaction mixture was added aqueous sodium thiosulfate solution at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude product of the title compound as a brown oil. This compound was used for the next step without further purification.

reactant | (3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)methanol | 126 mg | FC(CC=1C=C(C=CC1)CO)C1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C26H29F2NO2
reactant | Dess-Martin reagent | 188 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)benzaldehyde | FC(CC=1C=C(C=O)C=CC1)C1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C26H27F2NO2
